US06194410B1
0.20 g (2.2 mmol) of morpholine was added to a solution of 0.25 g (0.85 mmol) of 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 10 l of DMF and stirred at 60° for 1 hr. The reaction solution was cooled to RT and evaporated in a high vacuum. The residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2, CH2Cl2/MeOH 25:1) and crystallization from EtOH yielded 0.20 g (70%) of 3-benzenesulphonyl-5-methyl-2-methylsulphanyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p. 206-208°.

reactant | morpholine | 2.2 mmol, 0.20 g | N1CCOCC1 | C4H9NO
reactant | 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.85 mmol, 0.25 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H12ClN3O2S2
solvent | DMF | 10 l | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-methyl-2-methylsulphanyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.20 g, 70% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCOCC2)C)SC | C18H20N4O3S2
